* source E1
R_R1         N00237 N00176  10k  
R_R2         N00163 N00251  1k  
Q_Q1         N00163 N00176 0 Q2N2222
V_V2         N00251 0 5Vdc
V_V1         N00237 0  
+PULSE 0V 5V 0 1n 1n 10u 20u
