* source E2
M_M1         N00231 N00227 0 0 MbreakN           
R_R1         N00231 N00240  200k  
R_R2         N00223 N00227  100  
V_V2         N00240 0 20Vdc
V_V1         N00223 0 20Vdc
