* source E3
M_M1         N00322 N00308 N00228 N00228 MbreakP  
+ L=10u  
+ W=180n         
M_M2         N00322 N00308 0 0 MbreakN           
R_R1         N00228 N00351  200k TC=0,0 
R_R2         N00471 N00308  100 TC=0,0 
V_V1         N00351 0 20Vdc
V_V2         N00471 0 20Vdc
