* source E4
M_M1         N00258 N00308 N00123 N00123 MbreakP           
M_M2         N00258 N00301 N00123 N00123 MbreakP           
M_M3         N00123 N00308 N00165 N00165 MbreakN           
M_M4         N00165 N00301 0 0 MbreakN           
R_R1         N00258 N00315  100k TC=0,0 
V_V1         N00315 0 5Vdc
V_V2         N00301 0 5Vdc
V_V3         N00308 0 5Vdc
